US07214677B2
A: 5-Bromo-2-chloro-N-[2-(2-chloro-phenyl)-ethyl]-benzamide
To a stirred solution of 2-chloro-5-bromobenzoic acid (1.5 g, 6.3 mmol), EDCI (1.63 g, 8.5 mmol), and HOBT (1.15 g, 8.5 mmol) in DMF (20 ml) was added 2-(2-chlorophenyl)ethylamine (1.06 ml, 7.5 mmol). After 15 minutes triethylamine (1.18 ml, 8.5 mmol) and DMF (5 ml) was added. After 2 hours at ambient temperature the mixture was diluted with ethyl acetate (50 ml) and washed with 1N HCl followed by a saturated solution of sodium bicarbonate, followed by water, and then brine. The organic layer was separated and dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 2.12 g of an amorphous solid. Mass Spectrum (ES+) 374.6, (ES−) 372.2.

reactant | 2-chloro-5-bromobenzoic acid | 6.3 mmol, 1.5 g | ClC1=C(C(=O)O)C=C(C=C1)Br | C7H4BrClO2
reactant | EDCI | 8.5 mmol, 1.63 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 8.5 mmol, 1.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(2-chlorophenyl)ethylamine | 7.5 mmol, 1.06 ml | ClC1=C(C=CC=C1)CCN | C8H10ClN
reactant | triethylamine | 8.5 mmol, 1.18 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-2-chloro-N-[2-(2-chloro-phenyl)-ethyl]-benzamide | 2.12 g | BrC=1C=CC(=C(C(=O)NCCC2=C(C=CC=C2)Cl)C1)Cl | C15H12BrCl2NO
